US07294644B2
(R)-1-Cyclopropylmethyl-5-(5-fluoro-2-methoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid sec-butylamide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(5-fluoro-2-methoxy-phenyl)-ethanone as compound of formula S, cyclopropanemethylamine as R3—(CH2)m—NH2 and (R)-sec-butylamine as R1R2NH, MS (ISP) 359.3 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(5-fluoro-2-methoxy-phenyl)-ethanone | BrCC(=O)C1=C(C=CC(=C1)F)OC | C9H8BrFO2
reactant | cyclopropanemethylamine | C1(CC1)CN | C4H9N
reactant | (R)-sec-butylamine | [C@@H](C)(CC)N | C4H11N
product | (R)-1-Cyclopropylmethyl-5-(5-fluoro-2-methoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid sec-butylamide | [C@@H](C)(CC)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)F)OC)CC1CC1)C | C21H27FN2O2
